US07632833B2
8-Fluoro-3-(3-hydroxypropyl)-N-methoxy-N-methyl-3-phenyl-3a,4-dihydro-3H-pyrazolo[5,1-c][1,4]benzoxazine-2-carboxamide (5-7; a racemic mixture, 2.6 g, 6.29 mmol) was dissolved in anhydrous THF (50 mL) and cooled to −78° C. Methyllithium (11.8 mL, 3M in diethylether, 18.9 mmol) was added and the reaction stirred to 25° C. Upon completion the reaction was quenched by the addition of NH4Cl (50 mL) and extracted with EtOAc (3×50 mL). The combined organic extracts were dried (MgSO4), filtered and concentrated. Flash column chromatography (ISCO Redisep 0-100% EtOAc/hexanes gradient) provided 1-[8-fluoro-3-(3-hydroxypropyl)-3-phenyl-3a,4-dihydro-3H-pyrazolo[5,1-c][1,4]benzoxazin-2-yl]ethanone (5-8; a racemic mixture). 1H NMR (300 MHz, CDCl3) δ 7.28 (m, 4H), 7.07 (m, 2H), 6.78 (dd, J=8.9, 5.1 Hz, 1H), 6.58 (ddd, J=8.9, 8.2, 3.1 Hz, 1H), 4.15 (dd, J=10.5, 3.5 Hz, 1H), 3.75 (m, 2H), 3.71 (dd, J=10.8, 3.5 Hz, 1H), 2.95 (t, J=10.8 Hz, 1H), 2.55 (dt, J=13.0, 4.0 Hz, 1H), 2.55 (s, 3H), 2.37 (dt, J=13.0, 4.0 Hz, 1H), 1.74 (m, 1H), 1.42 (m, 1H); MS (M+H+, C21H21FN2O3) 369.3 found 369.4 required. This compound was resolved on the Chiracel OD column using MeOH as eluant into its separate enantiomers.

reactant | 8-Fluoro-3-(3-hydroxypropyl)-N-methoxy-N-methyl-3-phenyl-3a,4-dihydro-3H-pyrazolo[5,1-c][1,4]benzoxazine-2-carboxamide | FC=1C=CC2=C(N3C(CO2)C(C(=N3)C(=O)N(C)OC)(C3=CC=CC=C3)CCCO)C1 | C22H24FN3O4
reactant | Methyllithium | 18.9 mmol, 3M, 11.8 mL | C[Li]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 1-[8-fluoro-3-(3-hydroxypropyl)-3-phenyl-3a,4-dihydro-3H-pyrazolo[5,1-c][1,4]benzoxazin-2-yl]ethanone | FC=1C=CC2=C(N3C(CO2)C(C(=N3)C(C)=O)(C3=CC=CC=C3)CCCO)C1 | C21H21FN2O3
